US07435740B2
PREPARATION OF 1-BENZYL-6-AMINO-URACIL
A mixture of benzylurea (33.3 mmol), 2-cyanoacetic acid (36.63 mmol) and Ac2O (20 mL) was heated at 75-80° C. for 2 hours. After cooling to room temperature, 30 mL of Et2O was added and the resultant suspension was stirred for 1 h. The solid intermediate was filtered, suspended in a mixture of water (30 mL) and ethanol (15 mL) and heated at 80-85° C. 5 mL of 10% NaOH were slowly added. After 30 minutes, the reaction mixture was concentrated, acidified with 10% HCl and the precipitate collected by filtration (Yellow solid. Yield 70-80%).

reactant | benzylurea | 33.3 mmol | C(C1=CC=CC=C1)NC(=O)N | C8H10N2O
reactant | 2-cyanoacetic acid | 36.63 mmol | C(#N)CC(=O)O | C3H3NO2
reactant | Ac2O | 20 mL | CC(=O)OC(=O)C | C4H6O3
solvent | Et2O | 30 mL | CCOCC | C4H10O
product | 1-BENZYL-6-AMINO-URACIL | Yield 70-80% | C(C1=CC=CC=C1)N1C(=O)NC(=O)C=C1N | C11H11N3O2
